US04690942
1-(2,4-dichlorophenyl)-1-benzoyl-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethane
With efficient stirring, a solution of 25 ml of benzoyl chloride in 250 ml of diethyl ether is added dropwise at 0°-5° C. to a mixture of 250 ml of 2n NaOH solution and 27.6 g of 1-(2,4-dichlorophenyl)-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethanol (prepared in accordance with Example P1a). The reaction mixture is stirred for another 2 hours at 0°-5° C. and then further without cooling until it has reached room temperature. The separated ethereal phase is washed with four 50 ml portions of 0.2n NaOH solution and then with water until neutral, dried over sodium sulfate, filtered and concentrated by evaporation, affording as crude product 40 g of an oil which is purified by flash distillation at 0.07 mbar and 180° C. Recrystallisation from diisopropyl ether affords approx. 26 g of the product which melts at 104°-108° C.

reactant | benzoyl chloride | 25 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaOH | [OH-].[Na+]
reactant | 1-(2,4-dichlorophenyl)-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethanol | 27.6 g | ClC1=C(C=CC(=C1)Cl)C(C(N1N=CN=C1)F)O | C10H8Cl2FN3O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 1-(2,4-dichlorophenyl)-1-benzoyl-2-fluoro-2-(1H-1,2,4-triazol-1-yl)ethane | approx. 26 g | ClC1=C(C=CC(=C1)Cl)C(C(N1N=CN=C1)F)C(C1=CC=CC=C1)=O | C17H12Cl2FN3O
